US07622469B2
3,6-Dihydro-6,6-dimethyl-4-nonylamino-2-phenethylamino-1,3,5-triazine acetate
350 ml of methanol, 350 ml of acetone and 1.9 ml of concentrated hydrochloric acid were added to 31.0 g (76.7 mmol) of N1-phenethyl-N5-nonyl-biguanide dihydrochloride. The mixture was refluxed for 16 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 350 ml of ethanol, and to the solution were added 250 ml of water and 31 ml of 5N sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from ether to obtain 16.3 g of colorless crystals having a melting point of 72 to 76° C.

reactant | methanol | 350 ml | CO | CH4O
reactant | hydrochloric acid | 1.9 ml | Cl | ClH
reactant | N1-phenethyl-N5-nonyl-biguanide dihydrochloride | 76.7 mmol, 31.0 g | Cl.Cl.C(CC1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCCC
reactant | acetone | 350 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-nonylamino-2-phenethylamino-1,3,5-triazine acetate | 16.3 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCCC1=CC=CC=C1)NCCCCCCCCC)C | InChI=1S/C22H37N5.C2H4O2/c1-4-5-6-7-8-9-13-17-23-20-25-21(27-22(2,3)26-20)24-18-16-19-14-11-10-12-15-19;1-2(3)4/h10-12,14-15H,4-9,13,16-18H2,1-3H3,(H3,23,24,25,26,27);1H3,(H,3,4)
